US07268135B2
2-[4′-(Benzo[b]thiophen-3-ylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester (180 mg, 0.31 mmol) was dissolved in methylene chloride under N2 atmosphere, added with TFA (2 mL) at 0° C. and stirred for 4 hrs. Solvent was evaporated and the product dried under high vacuum to give 2-[4′-(Benzo[b]thiophen-3-ylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid in 66% yield (108 mg).

reactant | 2-[4′-(Benzo[b]thiophen-3-ylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester | 0.31 mmol, 180 mg | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(NC=1C2=C(SC1)C=CC=C2)=O)=O | C30H32N2O6S2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[4′-(Benzo[b]thiophen-3-ylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid | 66% yield | S1C2=C(C(=C1)NC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(C)C)C=CC=C2 | C26H24N2O6S2
